US09127024B2
Step 4: Synthesis of 4-allyl-3-hydroxy-2-methylbenzoic acid
To a stirred solution of the methyl 4-allyl-3-hydroxy-2-methylbenzoate (6.5 g, 31.6 mmol) in a mixture of THF:MeOH (3:1 ratio, 80 ml) at room temperature was added 25.3 g (316 mmol) of 50 w/w % aqueous NaOH solution, and the reaction mixture was stirred at 50° C. for 4 h. LCMS showed it as a clean reaction. The reaction mixture was cooled to room temperature and the methanol was removed on a rotovapor and diluted with ethyl acetate. The crude reaction mixture was acidified with 1N HCl. Some of the product precipitated out. It was diluted with water and extracted using ethyl acetate. The organic fractions were collected, dried over anhydrous MgSO4, filtered, and concentrated. The crude product was purified using an ISCO system (80 g silica column, hexane/EtOAc gradient. The product eluted ˜30% EtOAc in hexane, and the product fractions were collected and concentrated. 1H NMR (400 MHz, CDCl3) δ 7.58 (d, J=8.0 Hz, 1H), 7.03 (d, J=8.0 Hz, 1H), 6.12-5.78 (m, 1H), 5.30-5.08 (m, 2H), 3.45 (d, J=6.3 Hz, 2H), 2.54 (d, J=3.7 Hz, 3H).

reactant | methyl 4-allyl-3-hydroxy-2-methylbenzoate | 31.6 mmol, 6.5 g | C(C=C)C1=C(C(=C(C(=O)OC)C=C1)C)O | C12H14O3
reactant | NaOH | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | THF MeOH | 80 ml | C1CCOC1.CO
product | 4-allyl-3-hydroxy-2-methylbenzoic acid | C(C=C)C1=C(C(=C(C(=O)O)C=C1)C)O | C11H12O3
